US08629271B2
b) 2-(6-Bromohexylthio)acetaldehyde
To a solution of 6-(2,2-dimethoxyethylthio)hexan-1-ol (example 101, step a) (1.85 g) in DCM (75 mL) at 0° C. under N2 was added carbon tetrabromide (3.31 g) followed by triphenylphosphine (2.62 g) portionwise. The resultant mixture was stirred at RT for 1.25 h then concentrated in vacuo. Purification was by silica gel chromatography eluting with 0-50% ethyl acetate in cyclohexane to give the subtitled compound as a yellow liquid. Yield 1.31 g.

reactant | 6-(2,2-dimethoxyethylthio)hexan-1-ol | COC(CSCCCCCCO)OC | C10H22O3S
reactant | carbon tetrabromide | 3.31 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 2.62 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
product | 2-(6-Bromohexylthio)acetaldehyde | BrCCCCCCSCC=O | C8H15BrOS
